US04024272
The starting material can be obtained by reaction of 2-nitro-5-methoxyphenol with N,N-dimethyl-thiocarbamoyl chloride in DMF in the presence of NaH to give 1-dimethylamino-thiocarbonyloxy-2-nitro-5-methoxyphenol (m.p. 125°), rearrangement, by heating for half an hour at 210°, to give 1-dimethylaminocarbonylmercapto-2-nitro-5-methoxyphenol (m.p. 101°), saponification with aqueous-ethanolic sodium hydroxide solution at 20° to give 2-nitro-5-methoxy-thiophenol (m.p. 87°), addition reaction with glutaconic acid dimethyl ester to give 3-(2-nitro-5-methoxy-phenylmercapto)-glutaric acid dimethyl ester (m.p. 91°), saponification to give the free acid (m.p. 165°-166°), cyclization to give 5-methoxy-8-nitro-thiochroman-4-one-2-acetic acid (m.p. 182°-183°), conversion into the amide (m.p. 228°-230°), and the nitrile (m.p. 164°-165°), ether cleavage to yield 5-hydroxy-8-nitro-thiochroman-4-on-2-acetonitrile (m.p. 187°-188°), hydrogenation on 5% Pd-C in methanol at 20° and normal pressure to give 5-hydroxy-8-amino-thiochroman- 4-one-2-acetonitrile (hydrochloride, m.p. 240° with decomposition), acetylation with ketene in dichloromethane/methanol to give 5-hydroxy-8-acetamidothiochroman-4-one-2-acetonitrile (m.p. 142°), reaction to give the aldehyde (m.p. 142°-144°) and condensation with 2-phenyl-2-thiazolin-5-one to give 2-phenyl-4-[2-(5-hydroxy-8-acetamidothiochroman-4-on-2-yl)-ethylidene]-2-thiazolin-5-one (m.p. 222°-224°), condensation with acetonedicarboxylic acid monomethyl ester-monoamide to give a mixture of stereoisomeric 4-thiobenzamido-1,4,4a,5,5a,6,11,12a-octahydro-3,10,12-trihydroxy-7-acetamido-1,11-dioxo-6-thianaphthacene-2-carboxamides (m.p. 238°-240° with decomposition), epimerization with pyridine at 40° to give a mixture (m.p. 228°-230° with decomposition) of 4-de-dimethylamino-4-thiobenzamido-7-acetamido-12a-de- hydroxy-6-thiatetracycline and its 5a-epimer, hydroxylation of the mixture and separation of the isomers via the imino ethers.

reactant | 2-nitro-5-methoxy-thiophenol | [N+](=O)([O-])C1=C(C=C(C=C1)OC)S | C7H7NO3S
reactant | glutaconic acid dimethyl ester | COC(C=CCC(=O)OC)=O | C7H10O4
product | 3-(2-nitro-5-methoxy-phenylmercapto)-glutaric acid dimethyl ester | COC(CC(CC(=O)OC)SC1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C14H17NO7S
